US08466292B2
1.11 Methyl 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]-phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylate hydrochloride
To a solution of 300 mg (0.47 mmol) of 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclo-hexanecarboxylic acid hydrochloride in 10 mL of methanol and cooled to 0° C. is added 0.07 mL (0.93 mmol) of thionyl chloride. The reaction mixture is warmed to room temperature and stirred for 20 hours, and then concentrated under reduced pressure. The residue obtained is taken up in 20 mL of ether and solidified. After drying under reduced pressure, 268 mg of methyl 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylate hydro-chloride are obtained in the form of a white powder.

reactant | 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclo-hexanecarboxylic acid hydrochloride | 0.47 mmol, 300 mg | Cl.ClC=1C(=NC=C(C1)Cl)C=1C(=NC(=CC1)C(=O)NC1(CCCCC1)C(=O)O)C1=CC(=C(C=C1)Cl)OCCCN(C)C
reactant | thionyl chloride | 0.93 mmol, 0.07 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 10 mL | CO | CH4O
solvent | ether | 20 mL | CCOCC | C4H10O
product | Methyl 1-{[(3,5-dichloro-2′-{4-chloro-3-[3-(dimethylamino)propoxy]-phenyl}-2,3′-bipyridin-6′-yl)carbonyl]amino}cyclohexanecarboxylate hydrochloride | Cl.ClC=1C(=NC=C(C1)Cl)C=1C(=NC(=CC1)C(=O)NC1(CCCCC1)C(=O)OC)C1=CC(=C(C=C1)Cl)OCCCN(C)C | InChI=1S/C30H33Cl3N4O4.ClH/c1-37(2)14-7-15-41-25-16-19(8-10-22(25)32)26-21(27-23(33)17-20(31)18-34-27)9-11-24(35-26)28(38)36-30(29(39)40-3)12-5-4-6-13-30;/h8-11,16-18H,4-7,12-15H2,1-3H3,(H,36,38);1H
